US06294690B1
Step A: Preparation of (1-Cyanocyclohexa-2,5-dienyl)acetic Acid t-butyl Ester
Lithium (1.73 g, 249 mmol) was added in portions to a stirred solution of benzonitrile (10.2 mL, 10.3 g, 99.9 mmol) and t-BuOH (9.6 mL, 7.4 g, 100 mmol) in NH3 (50 mL) and THF (10 mL) under N2 at −78° C. After stirring for 25 minutes, t-butyl bromoacetate (29.5 mL, 39.0 g, 200 mmol) was added dropwise. After 1 hour, ammonium chloride (41.8 g, 781 mmol) was added in portions. The reaction mixture was slowly warmed to room temperature while the NH3 was removed with a stream of N2. Water (125 mL) was added and the mixture extracted with MTBE (3×50 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. Flash chromatography (SiO2, CH2Cl2-1:14 MTBE:CH2Cl2) afforded 16.0 g (73%) of product as an oil.

reactant | Lithium | 249 mmol, 1.73 g | [Li] | Li
reactant | benzonitrile | 99.9 mmol, 10.2 mL, 10.3 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | t-BuOH | 100 mmol, 9.6 mL, 7.4 g | CC(C)(C)O | C4H10O
reactant | t-butyl bromoacetate | 200 mmol, 29.5 mL, 39.0 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | 781 mmol, 41.8 g | [Cl-].[NH4+]
solvent | NH3 | 50 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1-Cyanocyclohexa-2,5-dienyl)acetic Acid t-butyl Ester | 16.0 g, 73% | C(C)(C)(C)OC(CC1(C=CCC=C1)C#N)=O | C13H17NO2
